US05491152
Part A. A solution of 3,4-dimethoxyphenethyl alcohol (4.63 g, 25.4 mmol), ethyl diethoxyacetate (5.00 mL, 28.0 mmol) and trimethylsilyl trifluoromethanesulfonate (0.50 mL, 2.58 mmol) in acetonitrile (50 mL) wasstirred at ambient temperature for 12 hours, then heated to reflux for 18 hours. The solution was cooled, and poured into water (200 mL). This was extracted with ethyl acetate (2×200 mL), and the extracts were washed with brine (200 mL), combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The residual oil was separated by flash chromatography (1:9 ethyl acetate/hexane--1:4 ethyl acetate/hexane) to afford the product, ethyl 6,7-dimethoxy-1,2,3,4-tetrahydro-2-thianaphthalene-1-carboxylate, as an oil (1.68 g, 6.31 mmol, 25%). 1H NMR (CDCl3): δ 6.92 (1H,s); 6.62 (1H, s); 4.32-4.22 (3H, m); 4.04-3.96 (1H, m); 3.87 (3H, s); 3.86 (3H, s); 2.90-2.79 (2H, m); 1.32 (3H, t, J=7.0 Hz). Mass spectrum (NH3 -CI/DDIP): m/z 269 (1%); 268 (7%); 267 (53%); 233 (5%); 193 (100%).

reactant | 3,4-dimethoxyphenethyl alcohol | 25.4 mmol, 4.63 g | COC=1C=C(CCO)C=CC1OC | C10H14O3
reactant | ethyl diethoxyacetate | 28.0 mmol, 5.00 mL | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | trimethylsilyl trifluoromethanesulfonate | 2.58 mmol, 0.50 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | water | 200 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | ethyl 6,7-dimethoxy-1,2,3,4-tetrahydro-2-thianaphthalene-1-carboxylate | COC=1C=C2CCSC(C2=CC1OC)C(=O)OCC | C14H18O4S
